US08022062B2
(±)-7-Chloro-6-[1-(3-methylpyridin-2-yl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Preparation 177 to react 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine with (±)-2-(1-bromoethyl)-3-methyl-pyridine. Use a method similar to the General Procedure 1-5, basic workup, and a method similar to the General Procedure 2-2 to give the title compound as a white solid. MS (APCI+) m/z: 333 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | (±)-2-(1-bromoethyl)-3-methyl-pyridine | BrC(C)C1=NC=CC=C1C | C8H10BrN
product | (±)-7-Chloro-6-[1-(3-methylpyridin-2-yl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SC(C)C1=NC=CC=C1C | InChI=1S/C18H21ClN2S.ClH/c1-12-4-3-9-21-17(12)13(2)22-18-15-8-11-20-10-7-14(15)5-6-16(18)19;/h3-6,9,13,20H,7-8,10-11H2,1-2H3;1H
